Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PLASTIC
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Left breast abscess s/p bilateral breast reduction on ___
 
Major Surgical or Invasive Procedure:
Bedside I&D left breast ___

 
History of Present Illness:
Pt is a ___ year old female with PMH significant for diabetes 
presenting to ED with left breast erythema, edema and pain s/p 
bilateral breast reduction ___.  Pt reports that she has had 
relatively unremarkable post-op course and was seen in follow up 
on ___ at which point no evidence of infection was noted. She 
has been changing her dressings daily with dry dressings after 
___ services were discontinued by the patient on ___. On 
___, pt noted increased pain and swelling to left breast. 
Upon exam she noted increased redness which has continued to 
progress. She reports bloody drainage from left nipple/areola 
and thick yellow drainage to bandage. Endorses mild nausea and 
fevers "in the 100s" at home. Patient has social worker, ___, 
who accompanied her to ED.

 
Past Medical History:
Mental retardation
Illiteracy
Obesity
Hypertension
Diabetes 
Anxiety

 
Social History:
___
Family History:
Non-contributory.
 
Physical Exam:
PHYSICAL EXAM:
Temp: 98.4   HR: 105   BP:124/60     RR: 18    O2 Sat: 98%RA
GENERAL: NAD, A+O x3
HEENT: NC, AT, EOMI
RESPIRATORY    [x] All findings normal
[ ] CTA/P     [ ] Excursion normal     [ ] No fremitus
[ ] No egophony    [ ] No spine/CVAT
[ ] Abnormal findings:
CARDIOVASCULAR [x] All findings normal
[ ] RRR    [ ] No m/r/g    [ ] No JVD   [ ] PMI nl  [ ] No edema
[ ] Peripheral pulses nl    [ ] No abd/carotid bruit
[ ] Abnormal findings:
GI             [x] All findings normal
[ ] Soft    [ ] NT   [ ] ND  [ ] No mass/HSM   [ ] No hernia
[ ] Abnormal findings:
GU             [x] Deferred  [ ] All findings normal
[ ] Nl genitalia    [ ] Nl pelvic/testicular exam    [ ] Nl DRE
[ ] Abnormal findings:
NEURO          [x] All findings normal
[ ] Strength intact/symmetric    [ ] Sensation intact/ symmetric
[ ] Reflexes nl     [ ] No facial asymmetry [ ] Cognition intact
[ ] Cranial nerves intact   [ ] Abnormal findings:
MS             [x] All findings normal
[ ] No clubbing   [ ] No cyanosis   [ ] No edema   [ ] Gait nl
[ ] No tenderness  [ ] Tone/align/ROM nl   [ ] Palpation nl
[ ] Nails nl   [ ] Abnormal findings:
LYMPH NODES    [x] All findings normal
[ ] Cervical nl      [ ] Supraclavicular nl     [ ] Axillary nl
[ ] Inguinal nl   [ ] Abnormal findings:
SKIN         
[x] Abnormal findings:
left breast with induration, erythema and increased warmth
extending from areola laterally to axilla. Area diffusely tender
to palpation. Exam limited however no drainage could be
expressed. Right breast soft without erythema, edema. 2 small
~.5cm areas of dehissence noted along surgical incision under
breast. Granular tissue noted without exudate.

 
Pertinent Results:
___ 03:50PM URINE  HOURS-RANDOM
___ 03:50PM URINE  UCG-NEGATIVE
___ 03:36PM   LACTATE-1.9
___ 03:24PM   GLUCOSE-414* UREA N-10 CREAT-0.9 SODIUM-133 
POTASSIUM-5.1 CHLORIDE-96 TOTAL CO2-29 ANION GAP-13
___ 03:24PM   estGFR-Using this
___ 03:24PM   WBC-12.4*# RBC-4.03* HGB-9.5*# HCT-30.6*# 
MCV-76* MCH-23.7* MCHC-31.1 RDW-14.4
___ 03:24PM   NEUTS-79.0* LYMPHS-13.5* MONOS-6.0 EOS-1.2 
BASOS-0.3
___ 03:24PM   PLT COUNT-429#
. 
US Left Breast:  A heterogeneous collection with no vascularity
within or in the periphery measuring approximately 9.2 x 2.6 x 
5.9 cm located at the 5 o'clock position of the left breast just
below the surgical wound 
.
___ 6:40 pm SWAB      LEFT BREAST. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S). 

   WOUND CULTURE (Final ___: 
      SERRATIA MARCESCENS.    MODERATE GROWTH. 
         This organism may develop resistance to third 
generation
         cephalosporins during prolonged therapy. Therefore, 
isolates that
         are initially susceptible may become resistant within 
three to
         four days after initiation of therapy.  For serious 
infections,
         repeat culture and sensitivity testing may therefore be 
warranted
         if third generation cephalosporins were used. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             SERRATIA MARCESCENS
                             |   
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
IMIPENEM--------------     2 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

 
Brief Hospital Course:
The patient was admitted to the plastic surgery service on 
___ for left breast infection s/p bl reduction ___. A 
bedside I&D was performed in the ED. A significant amount of 
purulent drainge was noted and cultures were obtained. The 
patient tolerated the procedure well. She was started on Unasyn 
pending culture data. Her left breast wound had wet to dry 
packings BID and her right breast small open areas had dry 
sterile dressings QD.  
.
Neuro: the patient received PO pain meds with good effect and 
adequate pain control.  
.
CV: The patient was stable from a cardiovascular standpoint; 
vital signs were routinely monitored.
.
Pulmonary: The patient was stable from a pulmonary standpoint; 
vital signs were routinely monitored.
.
GI/GU: Patient was maintained on a diabetic diet during her stay 
as an inpatient. She was also started on a bowel regimen to 
encourage bowel movement. Intake and output were closely 
monitored. 
.
ID: Post-I&D, the patient was started on IV unasyn then switched 
to PO bactrim on ___ when her culture revealed pan-sensitive 
Serratia marcescens. The patient's temperature was closely 
watched for signs of infection. 
.
Endocrine: A ___ Diabetes consult was requested for 
assistance with diabetes management.  A1C was 9.8 on ___ and 
blood glucose elevated (414) on admission.  It was felt that 
some of the glucose elevation could be due to infection.  
Metformin was increased and QHS glargine and sliding scale 
humalog insulin were added.  Finger stick blood sugars came 
under good control with this regimen.
.
Prophylaxis: The patient was encouraged to get up and ambulate 
as early as possible. 
.
At the time of discharge on ___, the patient was doing well, 
afebrile with stable vital signs, tolerating a diabetic diet, 
ambulating, voiding without assistance, and pain was well 
controlled. 

 
Medications on Admission:
1. lisinopril 40mg daily  
2. pravastatin 10mg daily  
3. metoprolol succinate 25mg daily  
4. metformin 500mg BID  
5. clotrimazole 1% cream apply to skin BID  
6. mupirocin 2% ointment apply TID to abrasion  
7. blood sugar dx (one touch ultra test)

 
Discharge Medications:
1. Lisinopril 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
2. Metoprolol Succinate 50 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).  
3. Pravastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed for constipation.
Disp:*45 Capsule(s)* Refills:*2*
5. Lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime) as needed for anxiety.  
6. Oxycodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q4H (every 4 hours) as needed for pain: Max of 12 tabs/day.  
7. Magnesium Hydroxide 400 mg/5 mL Suspension Sig: Thirty (30) 
ML PO Q6H (every 6 hours) as needed for constipation.  
8. Metformin 500 mg Tablet Sig: Two (2) Tablet PO BID (2 times a 
day).  
9. Sulfamethoxazole-Trimethoprim 800-160 mg Tablet Sig: One (1) 
Tablet PO BID (2 times a day) for 7 days.  
10. Insulin Glargine 100 unit/mL Solution Sig: Ten (10) units 
Subcutaneous at bedtime. units 
11. Humalog insulin
Per sliding scale...see attached.

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
left breast infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Personal Care: 
1. You will need to have twice per day moist packing and 
abdominal pads applied to your left breast daily. Dry dressing 
changes to your right breast daily. 
2. Keep dressings clean and dry  
. 
Activity: 
1. You may resume your regular diabetic diet. 
. 
Medications: 
1. Resume your regular medications unless instructed otherwise 
and take any new meds as ordered. Your diabetic medication was 
adjusted by the ___ Diabetes Service because your glucose 
levels were consistently high.  This could have been caused by 
your infection and your glucose levels may return to normal with 
the resolution of your infection.  You may not need insulin long 
term. 
2. You may take your prescribed pain medication for moderate to 
severe pain. You may switch to Tylenol or Extra Strength Tylenol 
for mild pain as directed on the packaging. Please note that 
Percocet and Vicodin have Tylenol as an active ingredient so do 
not take these meds with additional Tylenol. 
4. Take prescription pain medications for pain not relieved by 
tylenol. 
5. Take your antibiotic as prescribed. 
6. Take Colace, 100 mg by mouth 2 times per day, while taking 
the prescription pain medication. You may use a different 
over-the-counter stool softerner if you wish. 
7. Do not drive or operate heavy machinery while taking any 
narcotic pain medication. You may have constipation when taking 
narcotic pain medications (oxycodone, percocet, vicodin, 
hydrocodone, dilaudid, etc.); you should continue drinking 
fluids, you may take stool softeners, and should eat foods that 
are high in fiber. 
. 
Call the office IMMEDIATELY if you have any of the following: 
1. Signs of infection: fever with chills, increased redness, 
welling, warmth or tenderness at the surgical site, or unusual 
drainage from the incision(s). 
2. A large amount of bleeding from the incision(s) or drain(s). 
3. Fever greater than 101.5 oF 
4. Severe pain NOT relieved by your medication. 
. 
Return to the ER if: 
* If you are vomiting and cannot keep in fluids or your 
medications. 
* If you have shaking chills, fever greater than 101.5 (F) 
degrees or 38 (C) degrees, increased redness, swelling or 
discharge from incision, chest pain, shortness of breath, or 
anything else that is troubling you. 
* Any serious change in your symptoms, or any new symptoms that 
concern you. 
 
Followup Instructions:
___